US04873236
4-[[[2-[4-[3-(Diethylamino)propyl]-piperidin-l-yl]ethyl]amino]carbonyl]-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
Prepared analogously to Example 1 from 4-(chlorocarbonyl)-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one and 2-[4-[3-(diethylamino)propyl]-piperidin-l-yl]ethanamine in a yield of 52% of theory. Colourless crystals, m.p. 131°-133° C. (acetonitrile).

reactant | 4-(chlorocarbonyl)-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | ClC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2C | C13H9ClN2O2S
reactant | 2-[4-[3-(diethylamino)propyl]-piperidin-l-yl]ethanamine | C(C)N(CCCC1CCN(CC1)CCN)CC | C14H31N3
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-[[[2-[4-[3-(Diethylamino)propyl]-piperidin-l-yl]ethyl]amino]carbonyl]-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | yield of 52% | C(C)N(CCCC1CCN(CC1)CCNC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2C)CC | C27H39N5O2S
